US06228870B1
A solution of bis(2-chloroethyl)-N-(1,1-dimethylethoxy)carbonyl amine (19 g, 78 mmol) and homophthalonitrile (8.6 g, 60 mmol) and cesium carbonate (79 g, 241 mmol) was stirred at 60° C. for 12 hours. The solution cooled to room temperature and diluted with 500 ml EtOAc and washed with saturated aqueous NaHSO4 and saturated aqueous NaCl. The solution was dried over Na2SO4, concentrated in vacuo, and purified by PCTLC (30% EtOAc in Hexane) to afforded 4-cyano-N-(1,1-dimethylethloxy)carbonyl-4-(2-cyanophenyl) piperidine as a yellow/orange oil.

reactant | bis(2-chloroethyl)-N-(1,1-dimethylethoxy)carbonyl amine | 78 mmol, 19 g | ClCCN(C(=O)OC(C)(C)C)CCCl | C9H17Cl2NO2
reactant | homophthalonitrile | 60 mmol, 8.6 g | C(CC=1C(C#N)=CC=CC1)#N | C9H6N2
reactant | cesium carbonate | 241 mmol, 79 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | EtOAc | 500 ml | CCOC(=O)C | C4H8O2
product | 4-cyano-N-(1,1-dimethylethloxy)carbonyl-4-(2-cyanophenyl) piperidine | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)C#N | C18H21N3O2
